US07582769B2
A mixture of NaH (60% susp., 1.4 mmol) and ethylene glycol dimethylether (3 mL) was added cyclohexyl-cis-(4-hydroxycyclohexyl)-amine (0.36 mmol) and the mixture was stirred under N2 at rt for 5 min followed by addition of propylbromide (5.5 mmol). The mixture was refluxed for 18 h under N2. The reaction mixture was cooled to rt and quenched with anhydrous EtOH (0.5 mL). The mixture was filtered and the residue was extracted with ethylene glycol di-methylether (2 mL). The organic phase was evaporated to dryness under reduced pressure and co-evaporated with toluene (10 LI). The residue was added HCl in MeOH (1.25 M, 5 mL) and evaporated under reduced pressure affording a white solid. The solid was washed with TBME (2 mL) and dissolved in a mixture of DCM (5 mL) and 1 M aqueous NaOH (5 mL). The organic phase was washed with H2O (5 mL), dried (Na2SO4), and evaporated under reduced pressure to give the desired cyclohexyl-cis-(4-propoxycyclohexyl)amine as an oil which was used in the next step without further purification.

reactant | NaH | 1.4 mmol | [H-].[Na+]
reactant | cyclohexyl-cis-(4-hydroxycyclohexyl)-amine | 0.36 mmol | C1(CCCCC1)N[C@@H]1CC[C@@H](CC1)O | C12H23NO
reactant | propylbromide | 5.5 mmol | C(CC)Br | C3H7Br
solvent | ethylene glycol dimethylether | 3 mL | COCCOC | C4H10O2
product | cyclohexyl-cis-(4-propoxycyclohexyl)amine | C1(CCCCC1)N[C@@H]1CC[C@@H](CC1)OCCC | C15H29NO
